US05536716
Step A: N-[1(R)-[(3,4-dihydro-6-methyl-4-oxospiro[2H-1-benzopyran-2,4'-piperidin]-1'-yl)carbonyl]-2-(indol-3-yl)ethyl]-2-[[(1,1 -dimethylethyloxy)carbonyl]amino]-2-methylpropanamide
Prepared by the procedure described in Example 3, Step B. 3,4-Dihydro-6-methylspiro[2H- 1 -benzopyran-2,4'-piperidine]-4-one hydrochloride (20 mg, 0.058 mmol), (Hashigaki et al Chem. Pharm. Bull. 32 pg 3561-3568 (1984)) α(R)-[[2-[[(1,1-dimethylethoxy)-carbonyl]amino]-2,2-dimethyl-1-oxoethyl]amino]-1H-indole-3propanoic acid) (32 mg, 0.082 mmol), HOBT (1 eq.), N-methyl morpholine (0.03 mL, 0.28 mmol), and EDC (40 mg, 0.21 mmol). Reaction time: 8 hours. Yield: 34 mg (86%).

reactant | 3,4-Dihydro-6-methylspiro[2H- 1 -benzopyran-2,4'-piperidine]-4-one hydrochloride | 0.058 mmol, 20 mg | Cl.CC=1C=CC2=C(C(CC3(CCNCC3)O2)=O)C1
reactant | α(R)-[[2-[[(1,1-dimethylethoxy)-carbonyl]amino]-2,2-dimethyl-1-oxoethyl]amino]-1H-indole-3propanoic acid | 32 pg | CC(C)(OC(=O)NC(C(=O)N[C@@H](C(=O)O)CC1=CNC2=CC=CC=C12)(C)C)C | C20H27N3O5
reactant | HOBT | 1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methyl morpholine | 0.28 mmol, 0.03 mL | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.21 mmol, 40 mg
product | N-[1(R)-[(3,4-dihydro-6-methyl-4-oxospiro[2H-1-benzopyran-2,4'-piperidin]-1'-yl)carbonyl]-2-(indol-3-yl)ethyl]-2-[[(1,1 -dimethylethyloxy)carbonyl]amino]-2-methylpropanamide | CC=1C=CC2=C(C(CC3(CCN(CC3)C(=O)[C@@H](CC3=CNC4=CC=CC=C34)NC(C(C)(C)NC(=O)OC(C)(C)C)=O)O2)=O)C1 | C34H42N4O6
